US04698340
To a solution of ethyl 1,6-dihydro-4-methyl-2-phenyl-6-(3-trifluoromethylphenyl)-5-pyrimidinecarboxylate (12 g) in ethyl acetate (240 ml) was added activated manganese dioxide (48 g) and the mixture was refluxed for 2.5 hours with stirring vigorously. After allowing to cool, manganese dioxide was filtered off. The filtrate was evaporated in vacuo and the residual precipitate was recrystallized from pet ether. The crystal was filtered off and dried in vacuo to give ethyl 6-methyl-2-phenyl-4-(3-trifluoromethylphenyl)-5-pyrimidinecarboxylate (0.45 g).

reactant | ethyl 1,6-dihydro-4-methyl-2-phenyl-6-(3-trifluoromethylphenyl)-5-pyrimidinecarboxylate | 12 g | CC=1N=C(NC(C1C(=O)OCC)C1=CC(=CC=C1)C(F)(F)F)C1=CC=CC=C1 | C21H19F3N2O2
solvent | ethyl acetate | 240 ml | C(C)(=O)OCC | C4H8O2
catalyst | manganese dioxide | 48 g | [O-2].[O-2].[Mn+4]
product | ethyl 6-methyl-2-phenyl-4-(3-trifluoromethylphenyl)-5-pyrimidinecarboxylate | 0.45 g | CC1=C(C(=NC(=N1)C1=CC=CC=C1)C1=CC(=CC=C1)C(F)(F)F)C(=O)OCC | C21H17F3N2O2
